US05559105
f) 2-n-Butyl-1-methyl-5-(2-hydroxy-4-methoxybenzoyl)-1H-imidazole
2-n-Butyl-1-methyl-5-(2-benzyloxy-4-methoxybenzoyl)-1H-imidazole (1.29 g, 3.41 mmol) dissolved in EtOAc was treated with 10% Pd/C under H2 (1 atm) for 10 h at ambient temperature. The catalyst was removed by filtration and the solvent removed under reduced pressure to afford the title compound as a bright yellow oil which solidified on standing (888 mg, 91%)

reactant | 2-n-Butyl-1-methyl-5-(2-benzyloxy-4-methoxybenzoyl)-1H-imidazole | 3.41 mmol, 1.29 g | C(CCC)C=1N(C(=CN1)C(C1=C(C=C(C=C1)OC)OCC1=CC=CC=C1)=O)C | C23H26N2O3
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 2-n-Butyl-1-methyl-5-(2-hydroxy-4-methoxybenzoyl)-1H-imidazole | C(CCC)C=1N(C(=CN1)C(C1=C(C=C(C=C1)OC)O)=O)C | C16H20N2O3
